Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
spironolactone / atorvastatin
 
Attending: ___.
 
Chief Complaint:
Hypoglycemia
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
CC: ___, encephalopathy
_
________________________________________________________________
___ y/o woman with h/o of type I DM, CAD, CKD (baseline Cr 
1.3-2.0), PAD s/p R BKA, chronic back pain on methadone, 
statin-induced hepatitis recently admitted from ALF with 
encephalopathy found to have ___ and hyperglycemia. 
Insulin regimen adjusted by ___ during hospitalization. 
Discharged home with ___ services 3 days ago. 
Seen by ___ ___ today. Found to have 
slurred speech and weakness. Unable to get up off toilet. 
Fingerstick 204. Blood pressure 122/60 sitting,  100/50 
standing. Pt reporting she hasn't been urinating much. ___ had  
helped patient set up pill box on ___, medications found 
"all  disorganized" per ___ with concern that patient may 
have taken too much medication. 
Upon arrival to the ED BG = 22 and increased to 439 with 50 mg 
dextrose. 
Now asymptomatic and was feeling fine yesterday. BS then down 
again to 60 and give 25 mg dextrose again. BG = 319 prior to 
leaving the ED.
No changes in diet, eats 3 meals per day at ALF. 

In ER: (Triage Vitals:0 |97.8 |77 |150/65 |99%  BG = 22 ) 
Meds Given: 
 IV Dextrose 50% 25 gm x 2
IVF 1000 mL NS  
IV Dextrose 50% 25 gm 
1000 mL D5NS  
IVF 1000 mL NS  

Radiology Studies: CXR
consults called: none

.
Upon arrival to the floor she reports decreased urinary 
frequency and decreased volume of urination along with 
difficulty initiating a urinary stream without dysuria. No 
n/v/d. No fevers or chills. No chest pain or shortness of 
breath. She is thirsty but she has a dry mouth all the time. She 
has been having three meals per day since leaving the hospital. 
Her meals are made for her at her ALF. 
.
PAIN SCALE: ___ pain in her lower back which is normal for her. 

CONSTITUTIONAL: [X] All normal
HEENT:  [] + dry mouth
RESPIRATORY:  [+] dry cough which began suddenly a couple of 
weeks ago
CARDIAC:  [X] All normal
GI:  [X] WNL
GU:  [+] Per HPI
 SKIN:  [+] itching from dry skin
 MUSCULOSKELETAL:  [X] All normal- no new aches and pain
 NEURO:  [X] All normal
 ENDOCRINE:  [X] All normal
 HEME/LYMPH:  [X]  All normal
 PSYCH:  [X] All normal
All other systems negative except as noted above
 
Past Medical History:
- H/o DVT  
- MI ___, no stents  
- DM type I. Followed by ___.  
- Peripheral neuropathy  
- gastroparesis  
- HTN  
- Hyperlipidemia  
- Hypothyroidism  
- PVD/PAD  
- Autonomic dysfunction, orthostatic hypotension  
- Barretts Esophagus on EGD ___  
- Depression  
- S/p right BKA  
- Hiatal hernia  
- sciatica  
- S/p laminectomy  
- S/p hysterectomy
 
Social History:
___
Family History:
Mother - coronary artery disease with MI in her ___, died at age 
___. Father - coronary artery disease with MI in her ___, died at 
age ___ confirmed on admission.
 

 
Physical Exam:
Vitals:  T 98.0  P 65  BP 182/68  RR 18  SaO2 98% on RA 
 GEN: NAD, comfortable appearing, chronically ill appearing  
 HEENT: ncat anicteric MMM  
 NECK: supple 
 CV: s1s2 rr soft SEM at LUSB 
 RESP: b/l ae no w/c/r  
 ABD: +bs, soft, NT, ND, no guarding or rebound  
b/l ecchymoses at near pubis
 back:  
 EXTR: L leg with mild edema, prominent veins. Tender to 
palpation.
S/p R BKA, site well healed. 
 DERM: no rash  
 NEURO: face symmetric speech fluent  
 PSYCH: calm, cooperative, very pleasant
 
Pertinent Results:
___ 01:12PM   GLUCOSE-186* UREA N-49* CREAT-2.9* 
SODIUM-131* POTASSIUM-5.1 CHLORIDE-97 TOTAL CO2-22 ANION GAP-17
___ 01:12PM   estGFR-Using this
___ 01:12PM   ALT(SGPT)-31 AST(SGOT)-52* ALK PHOS-140* TOT 
BILI-0.2
___ 01:12PM   cTropnT-0.05*
___ 01:12PM   ALBUMIN-3.4*
___ 01:12PM   ASA-NEG ETHANOL-NEG ACETMNPHN-NEG 
bnzodzpn-NEG barbitrt-NEG tricyclic-NEG
___ 01:12PM   WBC-6.4 RBC-2.75* HGB-8.5* HCT-27.4* MCV-100* 
MCH-30.9 MCHC-31.0* RDW-13.9 RDWSD-49.8*
___ 01:12PM   NEUTS-53.5 ___ MONOS-13.2* EOS-3.5 
BASOS-0.8 IM ___ AbsNeut-3.41# AbsLymp-1.81 AbsMono-0.84* 
AbsEos-0.22 AbsBaso-0.05
___ 01:12PM   PLT COUNT-184
======================================
ECG: 77 SR, PR interval = 225, RBB

___:
IMPRESSION: 
No evidence of deep venous thrombosis in the left lower 
extremity veins.
 
Brief Hospital Course:
___ year old female with h/o brittle DM c/b PVD s/p RBA, chronic 
pain on methadone and gabapentin, CKD, who presents with altered 
mental status and hypoglycemia upon arrival in the ED.

#ENCEPHALOPATHY
The patient initially had altered mental status in the setting 
of hypoglycemia. Her mental status quickly returned to baseline. 
Her ___ raised concern with the patient's ability to manage 
medications at home. She was seen by OT who felt the patient was 
safe for discharge home. 

#DIABETES MELLITUS
The patient initially had hyperglycemia at home. By the time of 
her arrival in the ED, her glucose was 22. This is in the 
setting of ___. The patient was followed by ___ and ___ 
insulin regimen was changed to Glargine 34 units in the AM and 6 
units in the ___.  She was seen by the diabetes nurse educator 
who recommended a very simple sliding scale. The patient was 
therefore sent home on a simplified sliding scale.  She was 
instructed to monitor her blood sugar closely and contact her 
endocrinologist Dr. ___ any low or high values. She was 
instructed to schedule follow up with Dr. ___ in ___ weeks. 

#HYPERTENSION
She was noted to be hypertensive on her home regimen. The 
hydrazine was initially increased to TID.  However she reported 
well controlled blood pressures at home andOT evaluation her 
blood pressure was in the 110s systolic.  The dose of hydrazine 
was decreased back to her pre-admission dose. Labile blood 
pressures due to autonomic neuropathy from diabetes is 
considered.  She will have her blood pressure checked by the ___ 
who will contact the primary care physician for SBP >160 or 
<110.  

#ACUTE RENAL FAILURE/CKD:
Most likely to poor po intake. The patient was given IV fluids 
with improvement in her creatinine. Creatinine on discharge was 
close to baseline at 2.0. 

#CHRONIC PAIN/SPINAL STENOSIS
She was continued on methadone/apap/lidocaine cream. The 
gabapentin dose was reduced to once daily given her renal 
function. 

#COPD: 
- Continued Spiriva and inhalers prn 

#PVD S/P BKA
- continued Plavix and ASA

#DEPRESSION:
- per pact pharmacist not on celexa

#Hypothyroidism- 
continued levothyroxine

Transitional issues:
- needs ongoing close follow up for glucose monitoring and blood 
pressure control.

Attending addendum: I did not examine this patient on the day of 
discharge, but cared for her earlier in her hospital course.
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Acetaminophen 500 mg PO Q8H:PRN PRN 
2. Albuterol Inhaler 2 PUFF IH Q6H:PRN sob 
3. Ascorbic Acid ___ mg PO BID 
4. Aspirin 81 mg PO DAILY 
5. Citalopram 20 mg PO DAILY 
6. Clopidogrel 75 mg PO DAILY 
7. Docusate Sodium 100 mg PO BID 
8. Levothyroxine Sodium 88 mcg PO DAILY 
9. Methadone 5 mg PO TID 
10. Metoclopramide 5 mg PO QIDACHS 
11. Multivitamins 1 TAB PO DAILY 
12. Ondansetron 4 mg PO Q8H:PRN nausea 
13. Pantoprazole 40 mg PO Q24H 
14. Polyethylene Glycol 17 g PO DAILY 
15. Tiotropium Bromide 1 CAP IH DAILY 
16. Calcitriol 0.25 mcg PO DAILY 
17. Cyanocobalamin 1000 mcg PO DAILY 
18. Ferrous GLUCONATE 324 mg PO BID 
19. Restasis 2 drops Other TID 
20. Senna 17.2 mg PO DAILY 
21. Vitamin D 800 UNIT PO DAILY 
22. Gabapentin 200 mg PO BID 
23. HydrALAzine 25 mg PO BID 
24. Labetalol 600 mg PO TID 
25. Lidocaine 5% Ointment 1 Appl TP BID 
26. Glargine 38 Units Bedtime
Insulin SC Sliding Scale using HUM Insulin

 
Discharge Medications:
1. Aspirin 81 mg PO DAILY 
2. Calcitriol 0.25 mcg PO DAILY 
3. Clopidogrel 75 mg PO DAILY 
4. Cyanocobalamin 1000 mcg PO DAILY 
5. Docusate Sodium 100 mg PO BID 
6. Ferrous GLUCONATE 324 mg PO BID 
7. Glargine 34 Units Breakfast
Glargine 6 Units Bedtime
Insulin SC Sliding Scale using HUM Insulin
8. Labetalol 600 mg PO TID 
9. Levothyroxine Sodium 88 mcg PO DAILY 
10. Lidocaine 5% Ointment 1 Appl TP BID 
11. Methadone 5 mg PO TID 
12. Metoclopramide 5 mg PO QIDACHS 
13. Multivitamins 1 TAB PO DAILY 
14. Ondansetron 4 mg PO Q8H:PRN nausea 
15. Pantoprazole 40 mg PO Q24H 
16. Polyethylene Glycol 17 g PO DAILY 
17. Senna 17.2 mg PO DAILY 
18. Tiotropium Bromide 1 CAP IH DAILY 
19. Vitamin D 800 UNIT PO DAILY 
20. Restasis 2 drops Other TID 
21. Ascorbic Acid ___ mg PO BID 
22. Albuterol Inhaler 2 PUFF IH Q6H:PRN sob 
23. Acetaminophen 500 mg PO Q8H:PRN pain 
24. Gabapentin 200 mg PO DAILY 
25. HydrALAzine 25 mg PO BID 

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Hypoglycemia
Hypertension
Diabetes, poorly controlled

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).

 
Discharge Instructions:
Ms. ___,

You were admitted with confusion and low sugars. You were seen 
by the team from the ___ and your insulin was 
adjusted. You will ___ with Dr. ___ preferred to 
schedule this appointment yourself. 

You were also found to have acute renal failure. This improved 
with IV fluids. It is important that you eat and drink well 
every day and you call your nurse if you are not urinating. 

Your blood pressure fluctuated during the hospitalization. You 
will have a visiting nurse to monitor this at home. You will 
___ with your primary care physician and preferred to 
schedule this appointment yourself. 

 
Followup Instructions:
___